US09234109B2
4-(-3-Pentadecylphenoxy)benzene-1,3-diamine is prepared as described in chapter 2 of Jinu Suju Mathew, “Novel Thermally Stable Polymers from a Renewable Resource (Cashew Nut Shell Liquid): Thesis, Characterization, and Applications,” Ph.D. Thesis, U. of Pune, July 2001, the disclosure of which is totally incorporated herein by reference. More specifically, to a 100 mL three necked round bottom flask equipped with a reflux condenser, thermowell, and magnetic stirrer is added 5 g (0.016 mol) of 3-pentadecylphenol, 1.35 g (1.3 mL, 0.016 mol) of N-methyl imidazole, and 50 mL methyl ethyl ketone, and the solution is stirred for 1.5 hours. Thereafter 3.33 g (0.016 mol) of 2,4-dinitrochlorobenzene is added to this mixture and the reaction mixture is refluxed for 3 hours. The solvent is then distilled off and the residue dissolved in ether. The ether solution is then washed with water, 5% NaOH solution, and again with water. The ether solution is then dried with sodium sulfate and the ether distilled off to obtain the crude product. The crude product is then recrystallized from petroleum ether at 40 to 60° C. to obtain pure 1-(3-pentadecylphenoxy)-2,4-dinitrobenzene, of the formula

reactant | 3-pentadecylphenol | 0.016 mol, 5 g | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)O | C21H36O
reactant | N-methyl imidazole | 0.016 mol, 1.3 mL, 1.35 g | CN1C=NC=C1 | C4H6N2
reactant | 2,4-dinitrochlorobenzene | 0.016 mol, 3.33 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | methyl ethyl ketone | 50 mL | C(C)C(=O)C | C4H8O
product | 4-(-3-Pentadecylphenoxy)benzene-1,3-diamine | C(CCCCCCCCCCCCCC)C=1C=C(OC2=C(C=C(C=C2)N)N)C=CC1 | C27H42N2O
